US03946059
A suitable method for the preparation of bis-[γ-(trialkoxysilyl)-propyl]-disulfides is disclosed in copending application Ser. No. 529,203 filed Dec. 3, 1974 entitled "Bis-[γ-(Trialkoxysilyl)-Propyl]-Disulfides of High Purity", the disclosure of which is hereby incorporated specifically herein by reference. According to the process therein disclosed such a disulfide can be prepared by reacting a γ-chloropropyl-triethoxy silane with thiourea and sodium iodide in alcohol for 24 hours at ebullition. After the reaction mixture is cooled to room temperature and over a period of 4 hours a strong current of ammonia is passed through the solution. This causes ammonium chloride to precipitate. The filtrate and precipitate are separated and the filtrate can be concentrated whereby to obtain γ-mercaptopropyl-triethoxy silane. This latter material can be reacted with sulfuryl chloride in a solvent such as anhydrous benzene at a temperature of +8 - + 12°C. The SO2Cl2 is added to the γ-mercapto-propyl-triethoxy silane dropwise over a period of about 55 minutes. Sulfur dioxide and hydrogen chloride gas which are formed are removed by a nitrogen gas purge. After a period of about 6 hours at room temperature with stirring triethylamine can be added whereby to precipitate the amine hydrochloride. The filtrate is then fractionally distilled whereby there is recovered a bis-[γ-(triethoxysilyl)-propyl]-disulfide.

reactant | γ-chloropropyl-triethoxy silane | ClCCC[Si](OCC)(OCC)OCC | C9H21ClO3Si
reactant | thiourea | NC(=S)N | CH4N2S
reactant | sodium iodide | [I-].[Na+]
reactant | ammonia | N | H3N
product | γ-mercaptopropyl-triethoxy silane | SCCC[Si](OCC)(OCC)OCC | C9H22O3SSi
